US06518423B1
3-(10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)propenamide
950 mg of (E)-3-(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)propenoic acid was dissolved in a solvent mixture of tetrahydrofuran (10 ml) with N,N-dimethylformamide (10 ml) in a nitrogen atmosphere. Under ice-cooling, 0.48 ml of diethyl chlorophosphonate was dropped into the reaction mixture. After stirring at room temperature for 30 minutes, ammonia gas was blown into the system. Then the reaction mixture was distributed into an aqueous solution of sodium carbonate and ethyl acetate and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the crystals thus precipitated were recrystallized from diisopropyl ether/ethyl acetate to thereby give 400 mg of the title compound as yellow crystals.

reactant | (E)-3-(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)propenoic acid | 950 mg | COCN1C2=C(SC3=C1C=C(C=C3)/C=C/C(=O)O)N=CC=N2 | C15H13N3O3S
reactant | diethyl chlorophosphonate | 0.48 ml | ClP(OCC)(OCC)=O | C4H10ClO3P
reactant | ammonia | N | H3N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)propenamide | 400 mg | COCN1C2=C(SC3=C1C=C(C=C3)C=CC(=O)N)N=CC=N2 | C15H14N4O2S
